US08084448B2
D. 5-{4-[2-(1-Benzenesulfonylpyrrolidin-2-yl)-ethyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a mixture of 5-{4-[(E)-2-(1-benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one (22 mg) in 4 mL ethanol/water (1:3) is added 5 mg of Degussa Pd/C and the resulting mixture is hydrogenated at 1 atm for 1 h. The catalyst is filtered through Celite and the solvent is removed under reduced pressure. The residue is purified by reverse phase Biotage using a gradient of 20-60% EtOH/water as eluent to furnish the title compound: LC retention time=1.10 min (Method A); (M−H)−=464.

reactant | 5-{4-[(E)-2-(1-benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 22 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)/C=C/C1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1 | C27H27N3O6S2
solvent | ethanol water | 4 mL | C(C)O.O
catalyst | Pd/C | [Pd] | Pd
product | 5-{4-[2-(1-Benzenesulfonylpyrrolidin-2-yl)-ethyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)CCC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C20H23N3O6S2
